US08258144B2
4-(2-(4-(4-acetylpiperazin-1-yl)phenylamino)-5-fluoropyrimidin-4-yl)piperazine-1-carboxamide
To a suspension of 1-(4-(4-(5-fluoro-4-(piperazin-1-yl)pyrimidin-2-ylamino)phenyl)piperazin-1-yl)ethanone (53 mg, 0.13 mmol) in CH3CN (2 mL), a solution of KCN (60 mg, 0.74 mmol) in H2O (2 mL) was added. The suspension became clear. The mixture was stirred at 70° C. for 3 h. It was then purified by HPLC to give the titled compound (15 mg). MS 443.3 (M+H); UV 201.8, 269.8 nm.

reactant | 1-(4-(4-(5-fluoro-4-(piperazin-1-yl)pyrimidin-2-ylamino)phenyl)piperazin-1-yl)ethanone | 0.13 mmol, 53 mg | FC=1C(=NC(=NC1)NC1=CC=C(C=C1)N1CCN(CC1)C(C)=O)N1CCNCC1 | C20H26FN7O
reactant | KCN | 0.74 mmol, 60 mg | [C-]#N.[K+]
reactant | H2O | 2 mL | O | H2O
solvent | CH3CN | 2 mL | CC#N | C2H3N
product | 4-(2-(4-(4-acetylpiperazin-1-yl)phenylamino)-5-fluoropyrimidin-4-yl)piperazine-1-carboxamide | 15 mg | C(C)(=O)N1CCN(CC1)C1=CC=C(C=C1)NC1=NC=C(C(=N1)N1CCN(CC1)C(=O)N)F | C21H27FN8O2
